US07816405B2
Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-isopropoxypropionate
Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-hydroxypropionate (11 kg), 2,2,2-trichloro-1-isopropoxyethanimine (20 kg, 98 mol), 1,2-dimethoxyethane (10 L), and heptane (44 L) were mixed and stirred, and the resultant solution was cooled to 7° C. Trifluoromethanesulfonic acid (2.36 kg, 15.7 mol) was added dropwise to the reaction mixture over a period of 36 minutes, followed by stirring the reaction mixture at 25° C. for 19 hours. The reaction mixture was cooled to 7° C., to which heptane (66 L) was then added. The reaction mixture was then stirred for 45 minutes, followed by filtering off a white crystal of trichloroacetoamide. Water (55 L) was added to the filtrate for separating. Then, the organic layer was washed with a 5% sodium bicarbonate aqueous solution (52 L) twice and with water (55 L), followed by vacuum concentration to obtain 12.1 kg of the title compound (yield: 96%).

reactant | Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-hydroxypropionate | 11 kg | C(C(C)(C)C)(=O)OC=1C=C(C=CC1)C[C@@H](C(=O)OC)O | C15H20O5
reactant | 2,2,2-trichloro-1-isopropoxyethanimine | 98 mol, 20 kg | ClC(C(=N)OC(C)C)(Cl)Cl | C5H8Cl3NO
reactant | 1,2-dimethoxyethane | 10 L | COCCOC | C4H10O2
reactant | Trifluoromethanesulfonic acid | 15.7 mol, 2.36 kg | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | heptane | 66 L | CCCCCCC | C7H16
solvent | heptane | 44 L | CCCCCCC | C7H16
product | Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-isopropoxypropionate | 12.1 kg, yield: 96% | C(C(C)(C)C)(=O)OC=1C=C(C=CC1)C[C@@H](C(=O)OC)OC(C)C | C18H26O5
